US08633207B2
To 2-amino-3-fluorobenzoic acid (1.55 g, 10 mmol) in DMF (5 mL) at rt were added hydroxybenzatriazole (2.0 g, 13 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (2.3 g, 12 mmol), ammonium chloride (2.3 g, 42 mmol), and DIEA (7.5 ml, 42 mmol). The mixture was purged with nitrogen and stirred for 6 h. The mixture was then poured into water and extracted with EtOAc (3×50 mL). The combined extracts were washed with brine (2×20 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was treated with DCM (10 mL) resulting in a precipitate that was collected by filtration to afford 2-amino-3-fluorobenzamide (670 mg). LC-MS (ESI) m/z 155 (M+H+)

reactant | 2-amino-3-fluorobenzoic acid | 10 mmol, 1.55 g | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 12 mmol, 2.3 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | ammonium chloride | 42 mmol, 2.3 g | [Cl-].[NH4+]
reactant | DIEA | 42 mmol, 7.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-amino-3-fluorobenzamide | 670 mg | NC1=C(C(=O)N)C=CC=C1F | C7H7FN2O
